US09353075B2
Step 2. Preparation of (2R,3S)-2-(cyclohexoxycarbonylamino)-3-hydroxy-butanoic acid
To a stirred mixture of D-threonine (0.150 g, 1.25 mmol) and NaHCO3 (0.158 g, 1.89 mmol) in H2O (3.5 mL), the crude mixture containing cyclohexyl-2-pyridyl-carbonate and cyclohexyl-2-oxopyridine 1-carboxylate (0.418 g, 1.89 mmol) in THF (3.5 mL) was added. After 15 h at rt the crude mixture was rotary evaporated to remove the organics and subsequently extracted with Et2O (3×5 mL). The aqueous phase was acidified with 2M HCl solution to pH 2-3 and subsequently extracted with AcOEt (3×10 mL). The organic fraction was dried over Na2SO4, filtered and concentrated to dryness to afford the title compound (0.3 g, 97%) as transparent oil, which was used in the next step without further purification. MS (ESI) m/z: 246 [M−H]+; (ESI) m/z: 244 [M−H]−. 1H NMR (DMSO-d6): δ 1.09 (d, J=6.2 Hz, 3H), 1.16-1.43 (m, 5H), 1.49 (s, 1H), 1.69 (s, 2H), 1.80 (s, 2H), 3.93 (dd, J=2.9, 8.8 Hz, 1H), 3.99-4.12 (m, 1H), 4.44-4.61 (m, 1H), 6.59 (d, J=8.9 Hz, 1H), 12.32 (br s, 1H).

reactant | D-threonine | 1.25 mmol, 0.150 g | N[C@H]([C@@H](O)C)C(=O)O | C4H9NO3
reactant | NaHCO3 | 1.89 mmol, 0.158 g | C(=O)(O)[O-].[Na+]
reactant | cyclohexyl-2-oxopyridine 1-carboxylate | 1.89 mmol, 0.418 g | C1(CCCCC1)OC(=O)N1C(C=CC=C1)=O | C12H15NO3
solvent | H2O | 3.5 mL | O | H2O
solvent | THF | 3.5 mL | C1CCOC1 | C4H8O
product | (2R,3S)-2-(cyclohexoxycarbonylamino)-3-hydroxy-butanoic acid | 0.3 g, 97% | C1(CCCCC1)OC(=O)N[C@@H](C(=O)O)[C@H](C)O | C11H19NO5
